US04855086
7-phenylhept-2E-en-6-ynoic acid (100 mg) was converted to the acid chloride as described in Example 2(a). The acid chloride was treated with triethylamine (73 ul) and 3-methoxybenzylamine (77 ul) in ether (2 ml). The product was recovered as described in Example 1 and purified by chromatography on silica, eluting with ether:hexane (1:1) to yield N-(3-methoxybenzyl)-7-phenylhept-2E-en-6-ynamide as a colourless solid, m.p. 96.3°-98.9°.

reactant | 7-phenylhept-2E-en-6-ynoic acid | 100 mg | C1(=CC=CC=C1)C#CCC/C=C/C(=O)O | C13H12O2
reactant | triethylamine | 73 ul | C(C)N(CC)CC | C6H15N
reactant | 3-methoxybenzylamine | 77 ul | COC=1C=C(CN)C=CC1 | C8H11NO
solvent | ether | 2 ml | CCOCC | C4H10O
product | N-(3-methoxybenzyl)-7-phenylhept-2E-en-6-ynamide | COC=1C=C(CNC(\C=C\CCC#CC2=CC=CC=C2)=O)C=CC1 | C21H21NO2
